US09359375B2
(R)-4-(2-amino-1-cyclopropyl-2-oxoethylamino)-5-fluoro-2-(3-methylisothiazol-5-ylamino)benzamide
To a solution of (R)-2-(4-cyano-2-fluoro-5-(3-methylisothiazol-5-ylamino)phenylamino)-2-cyclopropylacetamide (38 mg, 0.110 mmol) in EtOH (1 mL) and DMSO (0.5 mL), aq. 1N NaOH (0.5 mL, 0.50 mmol) and aq. H2O2 (50%, 0.5 mL) were added. The mixture was stirred at room temperature for 20 min. HOAc (0.5 mL) was added. The mixture was purified by HPLC to give the titled compound (18 mg). MS 364.2 (M+H); UV 219.3, 280.5, 302.6 nm.

reactant | (R)-2-(4-cyano-2-fluoro-5-(3-methylisothiazol-5-ylamino)phenylamino)-2-cyclopropylacetamide | 0.110 mmol, 38 mg | C(#N)C1=CC(=C(C=C1NC1=CC(=NS1)C)N[C@@H](C(=O)N)C1CC1)F | C16H16FN5OS
reactant | NaOH | 0.50 mmol, 1N, 0.5 mL | [OH-].[Na+]
reactant | H2O2 | 0.5 mL | OO | H2O2
reactant | HOAc | 0.5 mL | CC(=O)O | C2H4O2
solvent | EtOH | 1 mL | CCO | C2H6O
solvent | DMSO | 0.5 mL | CS(=O)C | C2H6OS
product | (R)-4-(2-amino-1-cyclopropyl-2-oxoethylamino)-5-fluoro-2-(3-methylisothiazol-5-ylamino)benzamide | 18 mg | NC([C@@H](C1CC1)NC1=CC(=C(C(=O)N)C=C1F)NC1=CC(=NS1)C)=O | C16H18FN5O2S
